### PR TITLE
[Merged by Bors] - feat: port group_theory.group_action.defs

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Tracking mathlib commit: [dad7ecf9a1feae63e6e49f07619b7087403fb8d4](https://github.com/leanprover-community/mathlib/commit/dad7ecf9a1feae63e6e49f07619b7087403fb8d4)

- [x] depends on: #832

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#832~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,1194 @@
...
+@[to_additive]
+theorem surjective_smul (x : α) : Surjective fun c : M => c • x :=
+  exists_smul_eq M x
+#align mul_action.surjective_smul MulAction.surjective_smul
+
+/-- The regular action of a group on itself is transitive. -/
+@[to_additive "The regular action of a group on itself is transitive."]
+instance Regular.is_pretransitive [Group G] : IsPretransitive G G :=
+  ⟨fun x y => ⟨y * x⁻¹, inv_mul_cancel_right _ _⟩⟩
+#align mul_action.regular.is_pretransitive MulAction.Regular.is_pretransitive
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:157]:
```suggestion
instance Regular.isPretransitive [Group G] : IsPretransitive G G :=
  ⟨fun x y => ⟨y * x⁻¹, inv_mul_cancel_right _ _⟩⟩
#align mul_action.regular.is_pretransitive MulAction.Regular.isPretransitive
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 2]
```diff
@@ -0,0 +1,1194 @@
...
+      "Given a tower of additive actions `M → α → β`, if we use `Smul.comp` to pull back both of
+       `M`'s actions by a map `g : N → M`, then we obtain a new tower of scalar actions `N → α → β`.
+
+       This cannot be an instance because it can cause infinite loops whenever the `Smul` arguments
+       are still metavariables."]
+theorem comp.is_scalar_tower [SMul M β] [SMul α β] [IsScalarTower M α β] (g : N → M) : by
+    haveI := comp α g; haveI := comp β g; exact IsScalarTower N α β :=
+  { comp α g, comp β g with
+    smul_assoc := fun n => smul_assoc (g n) }
+#align has_smul.comp.is_scalar_tower SMul.comp.is_scalar_tower
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:349]:
```suggestion
theorem comp.isScalarTower [SMul M β] [SMul α β] [IsScalarTower M α β] (g : N → M) : by
    haveI := comp α g; haveI := comp β g; exact IsScalarTower N α β :=
  { comp α g, comp β g with
    smul_assoc := fun n => smul_assoc (g n) }
#align has_smul.comp.is_scalar_tower SMul.comp.isScalarTower
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 3]
```diff
@@ -0,0 +1,1194 @@
...
+-/
+@[to_additive
+      "This cannot be an instance because it can cause infinite loops wheneverthe `VAdd` arguments
+       are still metavariables."]
+theorem comp.smul_comm_class' [SMul β α] [SMulCommClass β M α] (g : N → M) :
+    haveI := comp α g
+    SMulCommClass β N α :=
+  { comp α g with
+    smul_comm := fun _ n => smul_comm _ (g n) }
+#align has_smul.comp.smul_comm_class' SMul.comp.smul_comm_class'
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:375]:
```suggestion
theorem comp.smulCommClass' [SMul β α] [SMulCommClass β M α] (g : N → M) :
    haveI := comp α g
    SMulCommClass β N α :=
  { comp α g with
    smul_comm := fun _ n => smul_comm _ (g n) }
#align has_smul.comp.smul_comm_class' SMul.comp.smulCommClass'
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 4]
```diff
@@ -0,0 +1,1194 @@
...
+
+/-- Embedding of `α` into functions `M → α` induced by an additive action of `M` on `α`. -/
+add_decl_doc AddAction.toFun
+
+variable {M α}
+
+@[simp, to_additive]
+theorem to_fun_apply (x : M) (y : α) : MulAction.toFun M α y x = x • y :=
+  rfl
+#align mul_action.to_fun_apply MulAction.to_fun_apply
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:564]:
```suggestion
theorem toFun_apply (x : M) (y : α) : MulAction.toFun M α y x = x • y :=
  rfl
#align mul_action.to_fun_apply MulAction.toFun_apply
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 5]
```diff
@@ -0,0 +1,1194 @@
...
+
+instance AddGroup.int_smul_comm_class :
+    SMulCommClass ℤ M
+      A where smul_comm n x y := ((DistribMulAction.toAddMonoidHom A x).map_zsmul y n).symm
+#align add_group.int_smul_comm_class AddGroup.int_smul_comm_class
+
+-- `SMulCommClass.symm` is not registered as an instance, as it would cause a loop
+instance AddGroup.int_smul_comm_class' : SMulCommClass M ℤ A :=
+  SMulCommClass.symm _ _ _
+#align add_group.int_smul_comm_class' AddGroup.int_smul_comm_class'
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:889]:
```suggestion
instance AddGroup.int_smulCommClass :
    SMulCommClass ℤ M
      A where smul_comm n x y := ((DistribMulAction.toAddMonoidHom A x).map_zsmul y n).symm
#align add_group.int_smul_comm_class AddGroup.int_smulCommClass

-- `SMulCommClass.symm` is not registered as an instance, as it would cause a loop
instance AddGroup.int_smulCommClass' : SMulCommClass M ℤ A :=
  SMulCommClass.symm _ _ _
#align add_group.int_smul_comm_class' AddGroup.int_smulCommClass'
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 6]
```diff
@@ -0,0 +1,1194 @@
...
+
+@[simp]
+theorem Function.End.smul_def (f : Function.End α) (a : α) : f • a = f a :=
+  rfl
+#align function.End.smul_def Function.End.smul_def
+
+/-- `function.End.apply_mul_action` is faithful. -/
+instance Function.End.apply_has_faithful_smul : HasFaithfulSmul (Function.End α) α :=
+  ⟨fun {_ _} => funext⟩
+#align function.End.apply_has_faithful_smul Function.End.apply_has_faithful_smul
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1055]:
```suggestion
instance Function.End.apply_hasFaithfulSmul : HasFaithfulSmul (Function.End α) α :=
  ⟨fun {_ _} => funext⟩
#align function.End.apply_has_faithful_smul Function.End.apply_hasFaithfulSmul
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 7]
```diff
@@ -0,0 +1,1194 @@
...
+
+/-- The tautological action by `add_monoid.End α` on `α`.
+
+This generalizes `function.End.apply_mul_action`. -/
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1059]:
```suggestion
/-- The tautological action by `AddMonoid.End α` on `α`.

This generalizes `Function.End.applyMulAction`. -/
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 8]
```diff
@@ -0,0 +1,1194 @@
...
+@[simp]
+theorem AddMonoid.End.smul_def [AddMonoid α] (f : AddMonoid.End α) (a : α) : f • a = f a :=
+  rfl
+#align add_monoid.End.smul_def AddMonoid.End.smul_def
+
+/-- `AddMonoid.End.apply_distrib_mul_action` is faithful. -/
+instance AddMonoid.End.apply_has_faithful_smul [AddMonoid α] :
+    HasFaithfulSmul (AddMonoid.End α) α :=
+  ⟨fun {_ _ h} => AddMonoidHom.ext h⟩
+#align add_monoid.End.apply_has_faithful_smul AddMonoid.End.apply_has_faithful_smul
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1079]:
```suggestion
/-- `AddMonoid.End.applyDistribMulAction` is faithful. -/
instance AddMonoid.End.apply_hasFaithfulSmul [AddMonoid α] :
    HasFaithfulSmul (AddMonoid.End α) α :=
  ⟨fun {_ _ h} => AddMonoidHom.ext h⟩
#align add_monoid.End.apply_has_faithful_smul AddMonoid.End.apply_hasFaithfulSmul
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 9]
```diff
@@ -0,0 +1,1194 @@
...
+
+/-- The monoid hom representing a monoid action.
+
+When `M` is a group, see `mul_action.to_perm_hom`. -/
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1083]:
```suggestion
When `M` is a group, see `MulAction.toPermHom`. -/
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 10]
```diff
@@ -0,0 +1,1194 @@
...
+def MulAction.toEndHom [Monoid M] [MulAction M α] :
+    M →* Function.End α where
+  toFun := (· • ·)
+  map_one' := funext (one_smul M)
+  map_mul' x y := funext (mul_smul x y)
+#align mul_action.to_End_hom MulAction.toEndHom
+
+/-- The monoid action induced by a monoid hom to `function.End α`
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1091]:
```suggestion
/-- The monoid action induced by a monoid hom to `Function.End α`
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 11]
```diff
@@ -0,0 +1,1194 @@
...
+
+See note [reducible non-instances]. -/
+@[reducible]
+def MulAction.ofEndHom [Monoid M] (f : M →* Function.End α) : MulAction M α :=
+  MulAction.compHom α f
+#align mul_action.of_End_hom MulAction.ofEndHom
+
+/-- The tautological additive action by `additive (function.End α)` on `α`. -/
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1099]:
```suggestion
/-- The tautological additive action by `Additive (Function.End α)` on `α`. -/
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 12]
```diff
@@ -0,0 +1,1194 @@
...
+instance AddAction.functionEnd :
+    AddAction (Additive (Function.End α)) α where
+  vadd := (· <| ·)
+  zero_vadd _ := rfl
+  add_vadd _ _ _ := rfl
+#align add_action.function_End AddAction.functionEnd
+
+/-- The additive monoid hom representing an additive monoid action.
+
+When `M` is a group, see `add_action.to_perm_hom`. -/
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1109]:
```suggestion
When `M` is a group, see `AddAction.toPermHom`. -/
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 13]
```diff
@@ -0,0 +1,1194 @@
...
+def AddAction.toEndHom [AddMonoid M] [AddAction M α] :
+    M →+ Additive (Function.End α) where
+  toFun := (· +ᵥ ·)
+  map_zero' := funext (zero_vadd M)
+  map_add' x y := funext (add_vadd x y)
+#align add_action.to_End_hom AddAction.toEndHom
+
+/-- The additive action induced by a hom to `additive (function.End α)`
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1117]:
```suggestion
/-- The additive action induced by a hom to `Additive (Function.End α)`
```

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 14]
```diff
@@ -0,0 +1,1194 @@
...
+    MulAction (Multiplicative α)
+      β where
+  one_smul := AddAction.zero_vadd
+  mul_smul := @AddAction.add_vadd α _ _ _
+#align multiplicative.mul_action Multiplicative.mulAction
+
+instance Additive.add_action_is_pretransitive [Monoid α] [MulAction α β]
+    [MulAction.IsPretransitive α β] : AddAction.IsPretransitive (Additive α) β :=
+  ⟨@MulAction.exists_smul_eq α _ _ _⟩
+#align additive.add_action_is_pretransitive Additive.add_action_is_pretransitive
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1177]:
```suggestion
instance Additive.addAction_isPretransitive [Monoid α] [MulAction α β]
    [MulAction.IsPretransitive α β] : AddAction.IsPretransitive (Additive α) β :=
  ⟨@MulAction.exists_smul_eq α _ _ _⟩
#align additive.add_action_is_pretransitive Additive.addAction_isPretransitive
```
and below.

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 15]
```diff
@@ -0,0 +1,1194 @@
...
+
+instance Multiplicative.add_action_is_pretransitive [AddMonoid α] [AddAction α β]
+    [AddAction.IsPretransitive α β] : MulAction.IsPretransitive (Multiplicative α) β :=
+  ⟨@AddAction.exists_vadd_eq α _ _ _⟩
+#align multiplicative.add_action_is_pretransitive Multiplicative.add_action_is_pretransitive
+
+instance Additive.vadd_comm_class [SMul α γ] [SMul β γ] [SMulCommClass α β γ] :
+    VAddCommClass (Additive α) (Additive β) γ :=
+  ⟨@smul_comm α β _ _ _ _⟩
+#align additive.vadd_comm_class Additive.vadd_comm_class
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:1187]:
```suggestion
instance Additive.vaddCommClass [SMul α γ] [SMul β γ] [SMulCommClass α β γ] :
    VAddCommClass (Additive α) (Additive β) γ :=
  ⟨@smul_comm α β _ _ _ _⟩
#align additive.vadd_comm_class Additive.vaddCommClass
```
and the next.

File: Mathlib/GroupTheory/GroupAction/Defs.lean [hunk 16]
```diff
@@ -0,0 +1,1194 @@
...
+
+open Function (Injective Surjective)
+
+/-!
+### Faithful actions
+-/
+
+
+/-- Typeclass for faithful actions. -/
+class HasFaithfulVadd (G : Type _) (P : Type _) [VAdd G P] : Prop where
```
Comment (semorrison) [inline Mathlib/GroupTheory/GroupAction/Defs.lean:59]: I think our capitalisation rule is that this should be `HasFaithfulVAdd`, and similarly for `SMul`.

**Comment by Ruben-VandeVelde** [comment]
Thanks! I think all the naming should be correct now

**Comment by semorrison** [comment]
bors merge
